US04406828
5.7 g of sodium hydride are placed in 80 ml of absolute tetrahydrofuran in a 500 ml flask provided with a thermometer, stirrer, reflux condenser and dropping funnel and 43.6 g of 1,1-dimethyl-tetralin-4-carboxylic acid methyl ester are added dropwise thereto. The mixture is then heated at reflux temperature for 1 hour. After cooling, 34 g of methyl iodide in 80 ml of absolute tetrahydrofuran are added dropwise and the mixture is held at reflux temperature for a further 1 hour. After cooling, a small amount of methanol is added, the mixture is poured into water and extracted with ether. The ether extracts are washed neutral, dried and evaporated. Distillation gives a quantitative yield of 1,1,4-trimethyl-tetralin-4-carboxylic acid methyl ester of boiling point 102° C./1.5 mmHg; nD20 =1.5219. Odour: tobacco, similar to (3).

reactant | sodium hydride | 5.7 g | [H-].[Na+]
reactant | 1,1-dimethyl-tetralin-4-carboxylic acid methyl ester | 43.6 g | COC(=O)C1CCC(C2=CC=CC=C12)(C)C | C14H18O2
reactant | methyl iodide | 34 g | CI | CH3I
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1,1,4-trimethyl-tetralin-4-carboxylic acid methyl ester | quantitative yield | COC(=O)C1(CCC(C2=CC=CC=C12)(C)C)C | C15H20O2
